US06962928B2
To a stirred solution of 6-methoxy-2-(3-methoxy-phenyl)-quinoline (96 mg, 0.36 mmol) in EtOH (3 mL) at 0° C. is added NiCl2.6H2O (86 mg, 0.36 mmol). The reaction mixture is stirred for 30 min before the addition of NaBH4 (55 mg, 1.45 mmol). The mixture is stirred for 16 h while warming to room temperature. An additional portion of NaBH4 (50 mg) is then added and stirring is continued for 3 h. The solvent is removed in vacuo and the resulting residue is partitioned between water and CH2Cl2. The organic phase is washed with water and brine, dried over MgSO4, filtered and concentrated. Flash chromotography (0-50% EtOAc/hexanes) yields 6-methoxy-2-(3-methoxy-phenyl)-1,2,3,4-tetrahydro-quinoline.

reactant | 6-methoxy-2-(3-methoxy-phenyl)-quinoline | 0.36 mmol, 96 mg | COC=1C=C2C=CC(=NC2=CC1)C1=CC(=CC=C1)OC | C17H15NO2
reactant | NaBH4 | 1.45 mmol, 55 mg | [BH4-].[Na+]
reactant | NaBH4 | 50 mg | [BH4-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 6-methoxy-2-(3-methoxy-phenyl)-1,2,3,4-tetrahydro-quinoline | COC=1C=C2CCC(NC2=CC1)C1=CC(=CC=C1)OC | C17H19NO2
